US06521630B1
Preparation of 8-Chloro-3,4-dihydro-2H-1-oxa-4a,9-diaza-anthracen-10-one
A 250 mL round bottom flask is charged with 3-chloro-2-[3-(3-chloro-propyl)-ureido]-benzoic acid (3.40 g, 11.7 mmol) and 50 mL of 10% aqueous KHCO3, and warmed to reflux for 1 hour. 50 mL of H2O is added and the solution is allowed to cool to room temperature, then to 0° C. The resulting yellow solid is collected by filtration to provide 2.32 g of crude product, which is recrystallized from CH2Cl2-isopropyl ether to provide the product as a white solid: 1.10 g (4.6 mmol, 40% yield). M.p. 206.7-207.9° C. 1H NMR (CDCl3): 8.09 (d, J 8, 1H), 7.77 (d, J=8, 1H), 7.24 (t, J=8, 1H), 4.54 (t, J=5, 2H), 4.14 (t, J=6, 2H), 2.32 (m, 2H). MS (CI): 237 (M+H, 100).

reactant | 3-chloro-2-[3-(3-chloro-propyl)-ureido]-benzoic acid | 11.7 mmol, 3.40 g | ClC=1C(=C(C(=O)O)C=CC1)NC(=O)NCCCCl | C11H12Cl2N2O3
solvent | H2O | 50 mL | O | H2O
product | 8-Chloro-3,4-dihydro-2H-1-oxa-4a,9-diaza-anthracen-10-one | 40% yield | ClC=1C=CC=C2C(N3CCCOC3=NC12)=O | C11H9ClN2O2
